US04343939
Bis(p-dimethylaminophenyl)Methoxy Acetic Acid, Ethyl Ester
A solution of 4,4'-bis(N,N-dimethylamino)benzhydrol, methyl ether (11.0 g, 0.039 mole), ethyl glycolate 4.04 g, 0.039 mole), 70 ml of tetrahydrofuran, 230 ml of n-hexane and one drop of methanesulfonic acid was refluxed for 2 hours. On completion of the reaction, 2 drops of tetramethylguanidine was added to discharge the blue color. The reaction mixture was filtered hot and the filtrate was cooled. An oily layer formed which was removed and stripped free of solvent; the remaining filtrate was also stripped, leaving an oil. Both samples of oil were combined and chilled. A waxy solid formed which, on repeated trituration with petroleum ether, gave a white solid. Recrystallization from a mixture of petroleum ether/acetone gave a white solid, mp 63°-67.5° C.

reactant | 4,4'-bis(N,N-dimethylamino)benzhydrol | CN(C)C1=CC=C(C(C2=CC=C(C=C2)N(C)C)O)C=C1 | C17H22N2O
reactant | methyl ether | 0.039 mole, 11.0 g | COC | C2H6O
reactant | ethyl glycolate | 0.039 mole, 4.04 g | C(CO)(=O)OCC | C4H8O3
reactant | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
catalyst | methanesulfonic acid | one drop | CS(=O)(=O)O | CH4O3S
catalyst | tetramethylguanidine | 2 drops | CN(C(N(C)C)=N)C | C5H13N3
solvent | n-hexane | 230 ml | CCCCCC | C6H14
product | Bis(p-dimethylaminophenyl)Methoxy Acetic Acid, Ethyl Ester | CN(C1=CC=C(C=C1)C(OCC(=O)OCC)C1=CC=C(C=C1)N(C)C)C | C21H28N2O3
